US08110585B2
trans-N-{[2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}propanamide
To a solution of trans-1-[2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methanamine (64.0 mg, 0.318 mmol) and triethylamine (88.7 μL, 0.636 mmol) in tetrahydrofuran (3 mL) was added propionic anhydride (49.0 μL, 0.382 mmol) under ice-cooling, and the mixture was stirred at room temperature for 10 min. The reaction solution was diluted with saturated aqueous sodium hydrogen carbonate solution. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (methanol/ethyl acetate=0/100→15/85) to give the title compound (68.0 mg, yield 83%).

reactant | trans-1-[2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methanamine | 0.318 mmol, 64.0 mg | CN1N=C2C=CC=C(C2=C1)[C@H]1[C@@H](C1)CN | C12H15N3
reactant | triethylamine | 0.636 mmol, 88.7 μL | C(C)N(CC)CC | C6H15N
reactant | propionic anhydride | 0.382 mmol, 49.0 μL | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | trans-N-{[2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}propanamide | 68.0 mg, yield 83% | CN1N=C2C=CC=C(C2=C1)[C@H]1[C@@H](C1)CNC(CC)=O | C15H19N3O
